US06946467B2
n-Butyl lithium (1 M in hexanes, 12.2 mL, 12.2 mmol) was slowly added to a solution of 2-bromothiazole (2.0 g, 12.2 mmol) in diethyl ether (50 mL) at −78° C. The mixture stirred at −78° C. for 1 h. Then, a solution of N-methoxy-N-methyl-4-Boc-piperazin-1-ylacetamide (3.0 g, 10.4 mmol) in tetrahydrofuran was slowly added. The mixture was allowed to slowly warm to −20° C. and stirred for 4 h. The mixture was then diluted with water followed by ethyl acetate. The water layer was extracted with ethyl acetate and the organic layers were combined, washed with brine, dried (Na2SO4), filtered, and concentrated. The crude product was purified by chromatography (Sio2, 20:1-6:1 CH2Cl2:CMA) to provide 1-Boc-4-(2-oxo-2-thiazol-2-ylethyl)piperazine (2.2 g, 68%) as a colorless oil.

reactant | n-Butyl lithium | 12.2 mmol, 1 M, 12.2 mL | C(CCC)[Li]
reactant | 2-bromothiazole | 12.2 mmol, 2.0 g | BrC=1SC=CN1 | C3H2BrNS
reactant | N-methoxy-N-methyl-4-Boc-piperazin-1-ylacetamide | 10.4 mmol, 3.0 g | CON(C(CN1CCN(CC1)C(=O)OC(C)(C)C)=O)C | C13H25N3O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-Boc-4-(2-oxo-2-thiazol-2-ylethyl)piperazine | 2.2 g, 68% | C(=O)(OC(C)(C)C)N1CCN(CC1)CC(C=1SC=CN1)=O | C14H21N3O3S
